US07034039B2
To a suspension of 3-[[(tert-butoxycarbonyl)amino]methyl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide (0.44 g, 1 mmol) in toluene (20 ml) was added Lawesson's reagent (0.24 g, 0.6 mmol), and the mixture was refluxed under heating for 1 h. The reaction mixture was purified by silica gel column chromatography to give tert-butyl[6-(aminothiocarbonyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.18 g, 39.1%) as crystals.

reactant | 3-[[(tert-butoxycarbonyl)amino]methyl]-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxamide | 1 mmol, 0.44 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=O)N)=O)CC(C)C | C24H35N3O5
reactant | Lawesson's reagent | 0.6 mmol, 0.24 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl[6-(aminothiocarbonyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.18 g, 39.1% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=S)N)=O)CC(C)C)=O | C24H35N3O4S
